Name:  ___                      Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Clotted AV Fistula
 
Major Surgical or Invasive Procedure:
___, fistulagram, stent placement, balloon 
angioplasty of RUE brachiocephalic AV fistula

 
History of Present Illness:
___ female w/ ESRD, on HD TTSa, DM, HTN, HLD, afib (not on 
AC), and recent stroke ___ who presents from HD w/ recurrence 
of thrombosed RUE graft. Last HD ___ while admitted for 
thrombosed graft at OSH (___), did not go to her 
HD session this past ___, showed upto HD today. No chest 
pain or palpitations. No SOB. Call in to ED does note 
nonadherance, pt only comes to HD for ___ txs/week. Pt also 
reports productive cough since she got her flu shot, maybe a 
month ago, white sputum, no f/c, no SOB. No n/v, no abd pain, no 
diarrhea. Does not make urine. Saw PCP 1 month ago.  
In the ED, initial vitals were: 98.1 72 169/84 18 99%  
-Pt was given insulin/dextrose, keyexelate.  
-Labs notable for Cr 9.7, K 6.o now s/p treatment.  
-Exam notable for a lack of palpable thrill at graft site.  
-EKG: afib @ 70, na/ni, no peaked t waves, unchanged from prior  

-No imaging and no micro.  
-Plan per multiple specialities while in ED, thrombectomy 
tomorrow, manage K medically.  
On transfer, VS were: 98 58 118/63 16 100% RA  

 
Past Medical History:
IDDM2 (dx ___ yrs ago), multiple admissions for uncontrolled DM  

ESRD on hemodialysis (M, W, F)  
HTN  
Hypercholestolemia  
PSH:  
Jump graft revision with thrombectomy of right  
upper extremity AV graft ___  
___ RUE AVG revision

 
Social History:
___
Family History:
father died of etoh-induced cirrhosis ___ y/o  
mother died of pna at ___ y/o  
grandmother had DM  
5 siblings w/o DM  

 
Physical Exam:
ADMISSION EXAM:
VS - 99.1 179/75 60 18 93% on RA
General: NAD, AAOx3, hunched over to left side lying in bed, 
coughing intermittently
HEENT: EOMI, anicteric sclerae 
Neck: trachea midline 
CV: S1, S2, RRR, no m/r/g 
Lungs: Decreased BS R lung base compared with left,  
Abdomen: Soft, NT/ND  
GU: Deferred 
Ext: RUE brachiocephalic fistula with no thrill, non-tender, L 
ankle fracture malunion several years ago, non-tender, DP pulse 
palpable, no cyanosis, clubbing, or edema 
Neuro: MAE's antigravity, slurred speech, left sided facial 
droop appreciated 
Skin: No rashes noted  

DISCHARGE EXAM:
VS: 97.8 117/82 68 18 92% on RA
General: NAD, AAOx3
HEENT: EOMI, anicteric sclerae 
Neck: trachea midline 
CV: S1, S2, RRR, no m/r/g 
Lungs: Decreased BS B/L lung bases 
Abdomen: Soft, NT/ND  
GU: Deferred 
Ext: RUE brachiocephalic fistula with palpable thrill, 
non-tender, L ankle fracture malunion several years ago, 
non-tender, DP pulse palpable, no cyanosis, clubbing, or edema 
Neuro: MAE's antigravity, slurred speech, left sided facial 
droop appreciated 
Skin: No rashes noted  

 
Pertinent Results:
ON ADMISSION:

___ 01:58PM   K+-6.0*
___ 01:55PM   GLUCOSE-91 UREA N-63* CREAT-9.7*# SODIUM-130* 
POTASSIUM-7.8* CHLORIDE-97 TOTAL CO2-18* ANION GAP-23*
___ 01:55PM   WBC-7.5 RBC-3.67* HGB-8.8* HCT-29.6* MCV-81* 
MCH-23.8* MCHC-29.6* RDW-22.2*
___ 04:38AM BLOOD WBC-5.9 RBC-2.56* Hgb-6.0* Hct-20.1* 
MCV-78* MCH-23.6* MCHC-30.1* RDW-21.9* Plt ___

ON DISCHARGE:

___ 04:38AM BLOOD Glucose-73 UreaN-32* Creat-5.3*# Na-136 
K-4.1 Cl-99 HCO3-24 AnGap-17
___ 04:38AM BLOOD Calcium-8.1* Phos-3.2# Mg-2.1
___ 01:55PM   NEUTS-83.3* LYMPHS-10.0* MONOS-4.1 EOS-2.3 
BASOS-0.___ woman with ESRD on HD who presents to ED with clotted 
graft, c/b hyperkalemia.  

# ESRD c/b Hyperkalemia: AV graft clotted, seen by transplant, 
renal, and ___ who recommended attempted thrombectomy with plans 
for tunneled line placement if unsucessful. The patient received 
medical management of her hyperkalemia including insulin, 
dextrose, kayexcelate with minimal improvement in her 
hyperkalemia. She then had a thrombectomy, fistulagram, stenting 
and balloon angioplasty of her fistula which resulted in patency 
of her graft. She then had HD ___ with resolution of her 
hyperkalemia. She received a low K, low phos diet and her 
sevelemer and nephrocaps were continued. Her lisinopril and 
losartan were held for hyperkalemia and her lisinopril was 
re-started after HD. 

# Productive cough: The patient had bibasilar decreased breath 
sounds and a productive cough on exam which she states is her 
baseline. These findings are likely due to underlying COPD given 
her history of smoking. She remained afebrile and WBC count was 
normal throughout hospitalization so there was no concern for 
pneumonia. Her oxygen saturation was stable in the low 90's 
while hospitalized.

# DM: Taken off insulin recently. Her blood sugars were stable 
while hospitalized. 
 
# HTN: Poorly controlled, on admission hypertensive to 
180's-190's. Her home medications of hydralazine and amlodipine 
were continued but lisinopril and losartan were held for 
hyperkalemia on admission. Her hydralazine was up-titrated to 50 
TID for 25 TID, but her blood pressures remained in the 170's 
until she received HD as volume overload was likely a 
contributing factor. After her first dialysis session, her blood 
pressure was under much better control. Her lisinopril was 
re-started once her hyperkalemia resolved, and her losartan was 
discontinued to prevent future episodes of hyperkalemia.

# Anemia: Likely due to ESRD. Her H/H trended down from 
admission when it was ___ to the second hospital day when it 
was ___ after her interventional radiology procedure. This 
acute decrease was attributed to blood loss during her 
procedure. She received 2U PRBC's and her post-transfusion H/H 
increased appropriately to 8.7/28.

# GERD: Stable, continued home pantoprazole while hospitalized.

# H/o CVA: Baseline slurred speech, mild L facial droop. Her 
home aspirin was continued while hospitalized.

# AFib: Diagnosed in ___, CHADS2VASC of 6. Per records patient 
not on anti-coagulation as she has declined coumadin in the 
past. Her heart rates were stable in the ___ with no rate 
control medications.

Transitional Issues:

# HTN-Please assess BP control as an outpatient on her new 
anti-hypertensive regimen.

# Compliance-The patient has missed dialysis frequently as an 
outpatient and has poor compliance with physician ___. 
SW consulted to provide resources as an outpatient. 

# Anemia-Patient's anemia attributed to ESRD and blood loss 
following procedure. Please check her H/H as an outpatient and 
assess need for epo/iron supplementation during HD.

# A fib with CHADS2VASC score of 6 with an annual stroke risk of 
___ medical record patient has previously declined coumadin 
therapy. Please assess patient's readiness/expected compliance 
with anti-coagulation to prevent strokes in the future.

# Hyperlipidema with history of CVA ___ medical history and 
records patient has a history of hyperlipidemia but is not 
currently on a statin. Please consider appropriateness of 
starting statin medication.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Amlodipine 5 mg PO DAILY 
2. Nephrocaps 1 CAP PO DAILY 
3. Aspirin 325 mg PO DAILY 
4. Lisinopril 20 mg PO DAILY 
5. sevelamer CARBONATE 1600 mg PO TID W/MEALS 
6. Losartan Potassium 50 mg PO QHS 
7. HydrALAzine 25 mg PO TID 
8. Pantoprazole 20 mg PO Q24H 

 
Discharge Medications:
1. Amlodipine 5 mg PO DAILY 
2. Aspirin 325 mg PO DAILY 
3. HydrALAzine 50 mg PO TID 
4. Lisinopril 20 mg PO DAILY 
5. Nephrocaps 1 CAP PO DAILY 
6. Pantoprazole 20 mg PO Q24H 
7. sevelamer CARBONATE 1600 mg PO TID W/MEALS 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary Diagnosis: End stage renal diasease on hemodialysis, 
clotted right upper extremity brachiocephalic fistula, 
hyperkalemia

Secondary Diagnosis: Hypertension, chronic obstructive pulmonary 
disease

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Out of Bed with assistance to chair or 
wheelchair.

 
Discharge Instructions:
Dear Ms. ___,

It was a pleasure caring for you at ___. You were admitted 
because you were unable to get dialysis due to a clot in your 
fistula. Your potassium levels were dangerously high because of 
your inability get dialysis. We treated your high potassium and 
monitored it frequently while you were admitted to make sure it 
was not too high. To evaluate your fistula, you underwent a 
fistulagram with interventional radiology and had a procedure to 
remove the clot from the fistula. You received dialysis while 
you were with us and this corrected your abnormally high 
potassium. We also heard that you often miss dialysis which is 
very dangerous. You met with a social worker to ensure that you 
have all the resources at home to make your dialysis and other 
doctor appointments. We noted you to be taking one medication 
for your blood pressure (losartan) which we feel is unecessary.  
We would like you to stop taking it. We also increased another 
blood pressure medication (hydralazine) to keep your blood 
pressure in the normal range. You can see these changes as well 
as your complete medication list in the medication 
reconciliation attached. We wish you all the best in your 
continued recovery.

Sincerely,

Your ___ Team
 
Followup Instructions:
___